US07202364B2
A solution of sodium methoxide is generated by treating metallic sodium (29 g, 1.26 mol) with 1000 mL of anhydrous methanol by dropwise addition under an inert atmosphere. After the metal is completely consumed, the solution is heated at reflux temperature for 30 minutes and then cooled to room temperature. 2-Chloro-5-methyl-6-fluorobenzamide (42 g, 0.22 mol) is added and stirring continued for an additional 30 minutes at room temperature. N-Bromosuccinimide (78 g, 0.44 mol) is then slowly added via a powder additional funnel. The reaction mixture is warmed to 60° C. for 3 hours during which time foaming is observed. The reaction mixture is cooled to room temperature and most of the solvent is removed by rotary evaporator. The residue is partitioned between EtOAc (1000 mL) and water (1000 mL). The organic layer is separted and washed with water (500 mL) and then brine (2×500 mL). The organic layer is dried (MgSO4), filtered and concentrated by rotary evaporator the crude product is then purified using flash chromatography, eluting with 4:1 hexanes/EtOAc to give N-(2-chloro-5-methyl-6-fluorophenyl)-carbamic acid methyl ester as a white solid (m.p. 109–112° C.).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 1.26 mol, 29 g | [Na] | Na
reactant | 2-Chloro-5-methyl-6-fluorobenzamide | 0.22 mol, 42 g | ClC1=C(C(=O)N)C(=C(C=C1)C)F | C8H7ClFNO
reactant | N-Bromosuccinimide | 0.44 mol, 78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 1000 mL | CO | CH4O
product | N-(2-chloro-5-methyl-6-fluorophenyl)-carbamic acid methyl ester | COC(NC1=C(C=CC(=C1F)C)Cl)=O | C9H9ClFNO2
